data/pmechdb/original/mc_train_fold0/raw/train.txt
CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)C[S+](C)[O-:10].C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F>>CN(CC1C2=C(C(=CC=C2)OCC3=CC=CC=C3)OC4=CC(=C(C=C14)OC)OC)C(=O)C[S+](C)[O:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F 10=20;20,21=21
C1=CC2=C(C=C1)C(=O)C3=C(C2=O)C=CC(=C3[NH2:10])NC(=O)CCl.C1=COC(=C1)[C:20](=[O:21])Cl.C1CCOC1.C1=CC=NC=C1>>C1=CC2=C(C=C1)C(=O)C3=C(C2=O)C=CC(=C3[NH2+:10][C:20](C4=CC=CO4)([O-:21])Cl)NC(=O)CCl.C1CCOC1.C1=CC=NC=C1 10=20;20,21=21
C[C+:20]1C2CC(C1C=C2)(C)C.CC(=O)[O-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(=O)[O:10][C:20]1(C2CC(C1C=C2)(C)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20,
[H:20][O:21]C(=O)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(C)([NH3+])[O-:10])C3=CC=C(N3)C.C(=O)[O-]>>[H:20][O:10]C(C)(CCC(=O)C1=CC(=CC(=C1)C2=CC=C(N2)C)C3=CC=C(N3)C)[NH3+].CC(=O)[O-:21].C(=O)[O-] 10=20;20,21=21
[H:20][OH:21].C1C(=[O:10])C2=C(N1)C=CC=C2>>[H:20][O+:10]=C1CNC2=C1C=CC=C2.[OH-:21] 10=20;20,21=21
[H:20][O+:21]=C1CCC(CC1)(C2=NC=C(S2)C)O.[OH2:10].C1CCOC1.C(CO)O.[Cl-]>>[H:20][OH2+:10].CC1=CN=C(S1)C2(CCC(=[O:21])CC2)O.C1CCOC1.C(CO)O.[Cl-] 10=20;20,21=21
C[As+](C)(C)[CH:21]=[CH2:20].[NH3:10]>>C[As+](C)(C)[CH-:21][CH2:20][NH3+:10] 10=20;20,21=21
C[C:20](=[OH+:21])O.[NH3:10].[Cl-]>>C[C:20]([NH3+:10])(O)[OH:21].[Cl-] 10=20;20,21=21
CCO[C:20](=[O:21])CC(C)C.[OH-:10]>>CCO[C:20](CC(C)C)([OH:10])[O-:21] 10=20;20,21=21
CCOC(=O)C1(C(CCC2(C1C[C:20](=[OH+:21])CC2=O)C#N)C)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-].C[OH:10]>>CCOC(=O)C1(C(CCC2(C1C[C:20](CC2=O)([OH:21])[OH+:10]C)C#N)C)C(=O)OCC.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CN(C)[C:11](=[CH2:10])[O-:12].[CH3:20][Br:21]>>[CH3:20][CH2:10][C:11](=[O:12])N(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
[CH3:20][Cl:21].[SH2:10]>>[CH3:20][SH2+:10].[Cl-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.CC1=C(CC(O1)(C2=CC=CC=C2)[OH:10])C(=O)OCC3=CC=CC=C3>>[H:20][OH+:10]C1(CC(=C(O1)C)C(=O)OCC2=CC=CC=C2)C3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.C1=CC=[N:10]C=C1.COC1=C2C(=CC=C1)C3=CC=CC=C3N2C(COS(=O)(=O)C(F)(F)F)C4=CC=CC=C4>>[H:20][N+:10]1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-:21].COC1=C2C(=CC=C1)C3=CC=CC=C3N2C(COS(=O)(=O)C(F)(F)F)C4=CC=CC=C4 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].C[C:22](=[CH:21][N+](=O)[O-])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C(C1=CC=CC=C1)C(=O)C2=CC=CO2)[C:22](=[NH+:23]CC(=O)O)C3=C4C=CC=CC4=CC=C3.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C([CH:21]=[C:22](C2=C3C=CC=CC3=CC=C2)[NH:23]CC(=O)O)C(=O)C4=CC=CO4.O 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH+:22]C=C(O1)C)C(C)C.[F-:10]>>[H:20][F:10].CC1=C[CH:22]=[C:21](O1)C(C)C 10=20;20,21=21,22
CC1CCC(C(C1)C=CC(C)(C(C)C)[C:20]([N:10]=[N+:11]=[N-:12])([O-])[O:21]P(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3)C(C)C>>CC1CCC(C(C1)C=CC(C)(C(C)C)[C:20](=[N:10][N+:11]#[N:12])[O-])C(C)C.C1=CC=C(C=C1)OP(=O)([O-:21])OC2=CC=CC=C2 10,11=10,20;20,21=21;12=11
C[Mg:20]Cl.C[P:10](Cl)Cl>>C[Mg-:20]([P+:10](C)(Cl)Cl)Cl 10=20,
CC[CH+:20]O.[OH2:10]>>CC[CH:20]([OH2+:10])O 10=20,
[H:10][C:11]1(CCC(CC1C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C(CC[OH:10])C[C:20](=[OH+:21])O>>C1CC[OH+:10][C:20](C1)(O)[OH:21] 10=20;20,21=21
[H:20][CH:21](C)[CH+:22]C1=CC=CC=C1.[OH2:10]>>[H:20][OH2+:10].C[CH:21]=[CH:22]C1=CC=CC=C1 10=20;20,21=21,22
CC(C)C[Al:20](CC(C)C)OC(C=CC1=CC=CC=C1)C2=CC=CC=C2.[OH2:10]>>CC(C)C[Al-:20](CC(C)C)([OH2+:10])OC(C=CC1=CC=CC=C1)C2=CC=CC=C2 10=20,
CC=CC1CCCC(C1[N:10](C)C)C.[CH3:20][I:21]>>CC=CC1CCCC(C1[N+:10](C)(C)[CH3:20])C.[I-:21] 10=20;20,21=21
[B-:10](CCCC)(CCCC)([O:11]S(=O)(=O)C(F)(F)F)[O+]=C(C)CC(C(C)C)OCC1=CC=C(C=C1)OC.CCN(C(C)C)C(C)C>>[B:10](CCCC)(CCCC)[O+]=C(C)CC(C(C)C)OCC1=CC=C(C=C1)OC.C(F)(F)(F)S(=O)(=O)[O-:11].CCN(C(C)C)C(C)C 10,11=11
[Li:11][C:10]1=CC=CC=C1.CC(=O)CC[C:20](=[O:21])Cl>>[Li+:11].CC(=O)CC[C:20]([C:10]1=CC=CC=C1)([O-:21])Cl 10,11=10,20;20,21=21
[Li:11][CH2:10]CCC.C[C:20](=[O:21])C1CCC(=CC1)O[Si](C)(C)C>>[Li+:11].CCC[CH2:10][C:20](C)(C1CCC(=CC1)O[Si](C)(C)C)[O-:21] 10,11=10,20;20,21=21
[H:20][CH:21]1CCC([P+]1(C2=CC=CC=C2)C3=CC=CC=C3)C4CCCC4C(=O)C5=CC=CC=C5.CC(C)(C)[O-:10].[K+]>>[H:20][O:10]C(C)(C)C.C1CC(C(C1)C(=O)C2=CC=CC=C2)C3CC[CH-:21][P+]3(C4=CC=CC=C4)C5=CC=CC=C5.[K+] 10=20;20,21=21
[H:20][O+:21]=C(C1=CC=CC=C1)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.COC(=[O:21])C1=CC=CC=C1 10=20;20,21=21
COC1=CC=C(C=C1)[CH2:20][Br:21].C1C[N:10]2CCN1CC2>>COC1=CC=C(C=C1)[CH2:20][N+:10]23CCN(CC2)CC3.[Br-:21] 10=20;20,21=21
[Li-:20]([NH+](C(C)C)C(C)C)[O+]=C(N(C(C)C)C(C)C)OC1=[C-:10]C(=CC=C1)F>>[Li-2:20]1([C:10]2=C(C=CC=C2F)OC(=[O+]1)N(C(C)C)C(C)C)[NH+](C(C)C)C(C)C 10=20,
CC[SH:10].[CH2:20]=[CH:21][C:22]#[NH+:23]>>CC[SH+:10][CH2:20][CH:21]=[C:22]=[NH:23] 10=20;22,23=23;20,21=21,22
C[C:20](=[O:21])C.COP(=O)([CH2-:10])OC>>C[C:20](C)([CH2:10]P(=O)(OC)OC)[O-:21] 10=20;20,21=21
